US08633173B2
4-{4-[8-(4-Methanesulfonyl-phenyl)-[1,2,4]triazolo[1,5-a]pyridine-2-ylamino]-pyrazol-1-yl}-piperidin-1-carboxylic acid tert-butyl ester was prepared from 2-chloro-8-(4-methanesulfonyl-phenyl)-[1,2,4]triazolo[1.5-a]pyridine (0.150 g, 0.48 mmol) and 4-(4-amino-pyrazol-1-yl)-piperidine-1-carboxylic acid tert-butyl ester (0.168 g, 0.63 mmol) with 2,2-bis-dicyclohexylphosphanyl-biphenyl (0.048 g, 0.088 mmol) as the ligand in a manner analogous to Example 2d. Product was isolated as a tan solid (0.134 g, 51%). MP=Softened at 161-166° C. then melted at 207-209° C. 1H NMR (400 MHz, (D3C)2SO, δ, ppm): 9.37 (s, 1H), 8.78 (d, J=6.52 Hz, 1H), 8.42 (d, J=8.00 Hz, 2H), 8.06 (d, J=7.89 Hz, 2H), 7.94 (d, J=7.45 Hz, 1H), 7.85 (s, 1H), 7.52 (s, 1H), 7.12 (t, J=6.89 Hz, 1H), 4.32 (s, 1H), 4.04 (d, J=11.40 Hz, 2H), 3.28 (s, 3H), 2.91 (s, 2H), 2.005 (d, J=11.77 Hz, 2H), 1.76 (q, J=12.21 Hz, 2H), 1.42 (s, 9H). MS=538 (MH)+.

reactant | 2-chloro-8-(4-methanesulfonyl-phenyl)-[1,2,4]triazolo[1.5-a]pyridine | 0.48 mmol, 0.150 g | ClC1=NN2C(C(=CC=C2)C2=CC=C(C=C2)S(=O)(=O)C)=N1 | C13H10ClN3O2S
reactant | 4-(4-amino-pyrazol-1-yl)-piperidine-1-carboxylic acid tert-butyl ester | 0.63 mmol, 0.168 g | C(C)(C)(C)OC(=O)N1CCC(CC1)N1N=CC(=C1)N | C13H22N4O2
reactant | 2,2-bis-dicyclohexylphosphanyl-biphenyl | 0.088 mmol, 0.048 g | C1(CCCCC1)P(C1(C(=CC=CC1)C1=CC=CC=C1)P(C1CCCCC1)C1CCCCC1)C1CCCCC1 | C36H54P2
product | 4-{4-[8-(4-Methanesulfonyl-phenyl)-[1,2,4]triazolo[1,5-a]pyridine-2-ylamino]-pyrazol-1-yl}-piperidin-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CCC(CC1)N1N=CC(=C1)NC1=NN2C(C(=CC=C2)C2=CC=C(C=C2)S(=O)(=O)C)=N1 | C26H31N7O4S
